US04322423
3.45 gm (0.01 mole) of 2-methyl-4-(p-bromophenyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine hydrochloride, m.p. 282°-283° C., 50 ml of ether, 2.8 gm (0.02 mol) of potassium carbonate and 1.5 gm (0.01 mol) of methyl iodide were admixed, and the mixture was heated for 2 hours on a water bath. The inorganic salts were separated by suction filtration, the solvent was evaporated out of the filtrate, and the hydrochloride was precipitated from the residue with ethereal hydrochloric acid, and recrystallized from isopropanol. 3.25 gm (91% of theory) of 2,6-dimethyl-4-(p-bromophenyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine hydrochloride, m.p. 258°-260° C., were obtained.

reactant | 2-methyl-4-(p-bromophenyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine hydrochloride | 0.01 mole, 3.45 gm | Cl.CC1=CC2=C(CNCC2C2=CC=C(C=C2)Br)S1
reactant | potassium carbonate | 0.02 mol, 2.8 gm | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.01 mol, 1.5 gm | CI | CH3I
solvent | ether | 50 ml | CCOCC | C4H10O
product | 2,6-dimethyl-4-(p-bromophenyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine hydrochloride | 3.25 gm, 91% | Cl.CC1=CC2=C(CN(CC2C2=CC=C(C=C2)Br)C)S1 | InChI=1S/C15H16BrNS.ClH/c1-10-7-13-14(8-17(2)9-15(13)18-10)11-3-5-12(16)6-4-11;/h3-7,14H,8-9H2,1-2H3;1H
